US06875765B2
REFERENCE: J. Org. Chem, 1979, 44, 1572-1574. To a −10° C. (acetone/ice/sodium chloride) methylene chloride solution of 4-amino-3-benzyloxy-benzoic acid methyl ester (8.7 g, 33.8 mmol) was added boron trifluoride diethyl etherate (12.4 mL, 101.5 mmol) dropwise. A methylene chloride solution (5.2 mL) of tert-butyl nitrite (4.8 mL, 40.5 mmol) was then slowly added dropwise. The reaction was allowed to stir at −10° C. for approximately 30 min. At this point a small aliquot (2 mL) was removed and concentrated under reduced pressure. 1H NMR showed that the reaction was complete. Chilled pentane (125 mL) was then added to precipitate the diazo-salt from the methylene chloride. The 3-benzyloxy-4-diazenyl-benzoic acid methyl ester was then dissolved in dioxane (˜150 mL) and acetonitrile (˜50 mL) and used without any further manipulation. To a −10° C. (acetone/ice/sodium chloride) solution of dioxane (150 mL) and acetic acid (150 mL) was added copper (I) chloride (0.99 g, 10.5 mmol) and lithium chloride (8.5 g, 201 mmol). Sulfur dioxide (˜150 mL) was then condensed into this solution using a −78° C. cold finger. The above solution of 3-benzyloxy-4-diazenyl-benzoic acid methyl ester was then poured into this solution. The reaction was kept at 0° C. for 4-5 h and then placed into a preheated oil bath at 65° C. overnight. The reaction was then cooled and poured into ethyl acetate (600 mL) and washed in succession with water and 1N sodium hydroxide. A final wash with saturated aqueous sodium chloride was done and the organic layer was then dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield 3-benzyloxy-4-chlorosulfonyl-benzoic acid methyl ester as a foam. This was used in the next step without further purification. The product moved on TLC to a Rf of 0.5 in 30% ethyl acetate/hexane. 1H NMR (CDCl3) 8.00(d,1H), 7.75(s,1H), 7.67(d,1H), 7.49(d,2H), 7.35(m,3H), 5.35(s,2H), 3.91(s,3H).

reactant | 4-amino-3-benzyloxy-benzoic acid methyl ester | 33.8 mmol, 8.7 g | COC(C1=CC(=C(C=C1)N)OCC1=CC=CC=C1)=O | C15H15NO3
reactant | boron trifluoride diethyl etherate | 101.5 mmol, 12.4 mL | B(F)(F)F.CCOCC
reactant | tert-butyl nitrite | 40.5 mmol, 4.8 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | lithium chloride | 201 mmol, 8.5 g | [Cl-].[Li+]
reactant | Sulfur dioxide | ˜150 mL | S(=O)=O | O2S
reactant | 3-benzyloxy-4-diazenyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)N=N)OCC1=CC=CC=C1)=O | C15H14N2O3
catalyst | copper (I) chloride | 10.5 mmol, 0.99 g | [Cu]Cl
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 5.2 mL | C(Cl)Cl | CH2Cl2
product | 3-benzyloxy-4-chlorosulfonyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)S(=O)(=O)Cl)OCC1=CC=CC=C1)=O | C15H13ClO5S
